US07378417B2
7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-trifluoromethanesulfonyl-phenyl)-amide
The title compound was prepared from 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.1) and 3-trifluoromethanesulfonyl-phenylamine [commercially available] according to general procedure II. Yellow solid. MS (ISP) 565.3 [(M+H)+]; mp 207° C.

reactant | 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)F | C15H8F5N3O2
reactant | 3-trifluoromethanesulfonyl-phenylamine | FC(S(=O)(=O)C=1C=C(C=CC1)N)(F)F | C7H6F3NO2S
product | 7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-trifluoromethanesulfonyl-phenyl)-amide | FC(S(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC=C(C=C2)C(F)(F)F)(F)F | C22H12F8N4O3S
